US07157487B2
In xylene (10 ml), 2-chlorobenzoxazole (743 μl, 6.51 mmol) and ethyl 4-amino-3-chlorophenylacetate (1.30 g, 6.51 mmol) were heated under reflux for 2 hours. After cooling to room temperature, the reaction mixture was diluted with chloroform (50 ml). The mixture was washed with water, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (9:1, v/v) eluate fractions, ethyl (4-(2-benzoxazolyl)amino-3-chlorophenyl)acetate (1.70 g, 79%) was obtained as a pale yellow solid.

reactant | 2-chlorobenzoxazole | 6.51 mmol, 743 μl | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | ethyl 4-amino-3-chlorophenylacetate | 6.51 mmol, 1.30 g | NC1=C(C=C(C=C1)CC(=O)OCC)Cl | C10H12ClNO2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl (4-(2-benzoxazolyl)amino-3-chlorophenyl)acetate | 1.70 g, 79% | O1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)OCC)Cl | C17H15ClN2O3
